US05101048
Preparation of phenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside (Example 9a)
If the procedure described in Preparation I is followed starting from 4 g (36.3.10-3 mol) of benzenethiol, 14 g (39.4.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-α-xylopyranosyl bromide and 10 g (39.10-3 mol) of mercuric cyanide (Hg(CN)2), 7.3 g of the expected product are obtained after crystallization from ether.

reactant | benzenethiol | 4 g | C1(=CC=CC=C1)S | C6H6S
reactant | 2,3,4-tri-O-acetyl-5-thio-α-xylopyranosyl bromide | 14 g | C(C)(=O)O[C@H]1[C@H](SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
product | phenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside | 7.3 g | C(C)(=O)O[C@H]1[C@H](SC2=CC=CC=C2)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H20O6S2
